US09216173B2
To a solution of 3-{[(benzyloxy)carbonyl]amino}-1,1-difluoropropan-2-yl trifluoromethanesulfonate (580 g, 1.54 mol) in DMF (3000 mL) was added sodium azide (240 g, 3.69 mol). After 3 hours, the reaction mixture was diluted with water (3000 mL) and extracted with diethyl ether (3×1500 mL). The organic layers were combined, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure to afford benzyl (2-azido-3,3-difluoropropyl)carbamate. The material was used without further purification.

reactant | 3-{[(benzyloxy)carbonyl]amino}-1,1-difluoropropan-2-yl trifluoromethanesulfonate | 1.54 mol, 580 g | FC(S(=O)(=O)OC(C(F)F)CNC(=O)OCC1=CC=CC=C1)(F)F | C12H12F5NO5S
reactant | sodium azide | 3.69 mol, 240 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 3000 mL | CN(C)C=O | C3H7NO
solvent | water | 3000 mL | O | H2O
product | benzyl (2-azido-3,3-difluoropropyl)carbamate | N(=[N+]=[N-])C(CNC(OCC1=CC=CC=C1)=O)C(F)F | C11H12F2N4O2
